### PR TITLE
lemmas about sequences of extended reals

### PR DESCRIPTION
**Pull request by affeldt-aist**
used in integral_sketch and probably of general interest

TODO: upon merging, make a PR to MathComp for the lemmas `big_nat_widenl` and `big_geq_mkord`

### CODE REVIEW

File: theories/sequences.v [hunk 1]
```diff
@@ -1188,4 +1188,53 @@ Lemma ereal_limD (R : realType) (f g : nat -> {ereal R}) :
   (lim (f \+ g) = lim f + lim g)%E.
 Proof. by move=> cf cg fg; apply/cvg_lim => //; exact: ereal_cvgD. Qed.
 
+Lemma ereal_sum_lim_sumC (R : realType) N (f : nat -> nat -> {ereal R}) :
+  (forall a b, 0%:E <= f a b)%E ->
+  (\sum_(i < N) (lim (fun n => (\sum_(j < n) f i j)%E)) <=
```
Comment (CohenCyril) [inline theories/sequences.v:1193]:
```coq
(lim (fun n => (\sum_(j < n) f i j)%E)
```
This deserves a notation, I would introduce:
```coq
Notation "\big [ op / idx]_ (i <oo | P n) f i     := (lim (fun n => (\big[op/idx]_(i < n | P) f i)%E) (...) : big_scope".
Notation "\big [op/idx]_ ( i0 <= i <oo | P n) f i := (lim (fun n => (\big[op/idx]_(i0 <= i < n | P) f i)%E) (...) : big_scope".
Notation "\big [op/idx]_ ( i <oo ) f i            := (lim (fun n => (\big[op/idx]_(i < n) f i)%E) (...) : big_scope".
Notation "\big [op/idx]_ ( i0 <= i <oo ) f i      := (lim (fun n => (\big[op/idx]_(0 <= i < n) f i)%E) (...) : big_scope".
Notation "\sum_ ( i <oo | P n) f i                := (lim (fun n => (\sum_(i < n | P) f i)%E) (...) : ring_scope".
Notation "\sum_ ( i0 <= i <oo | P n) f i          := (lim (fun n => (\sum_(i0 <= i < n | P) f i)%E) (...) : ring_scope".
Notation "\sum_ ( i <oo ) f i                     := (lim (fun n => (\sum_(i < n) f i)%E) (...) : ring_scope".
Notation "\sum_ ( i0 <= i <oo ) f i               := (lim (fun n => (\sum_(0 <= i < n) f i)%E) (...) : ring_scope".
```

Comment (affeldt-aist) [reply theories/sequences.v]: > This deserves a notation, I would introduce:

I put the notation but they are parsing only as of right now (they don't print).
I have not yet been able to find out why but plan to investigate further soon.

Comment (affeldt-aist) [reply theories/sequences.v]: > I put the notation but they are parsing only as of right now (they don't print).
> I have not yet been able to find out why but plan to investigate further soon.

How about introducing a `Definition` for the contents of the `Notation` so that it prints? (like `mkset`)

Comment (CohenCyril) [reply theories/sequences.v]: Hey it's not needed  in order for notatkns to be prontable you need to write explicitly all the coercions.

File: theories/ereal.v [hunk 2]
```diff
@@ -564,10 +564,13 @@ Qed.
...
-  (forall n, P n -> 0%:E <= u_ n) ->
-  forall l, 0%:E <= \sum_(i <- l | P i) u_ i.
-Proof. by move=> u0 l; elim/big_rec : _ => // t x Pt; apply/adde_ge0/u0. Qed.
+Lemma sume_ge0 (T : eqType) (f : T -> {ereal R}) (P : pred T) (l : seq T) :
+  {in l, forall t, P t -> 0%:E <= f t} -> 0%:E <= \sum_(i <- l | P i) f i.
+Proof.
+elim: l => [_|h t ih f0]; [by rewrite big_nil|rewrite big_cons].
+case: ifPn => // ?; last by rewrite ih // => x xt ?; rewrite f0 // inE xt orbT.
+by rewrite adde_ge0 // ?f0 ?mem_head// ih// => x xt ?; rewrite f0// inE orbC xt.
+Qed.
```
Comment (CohenCyril) [inline theories/ereal.v:573]: No `in l`, ever, this requires an `eqType` and thus actually reduces generality.
This kind of things is covered by `big_seq_cond`.

File: theories/sequences.v [hunk 3]
```diff
@@ -807,6 +807,10 @@ Notation "\sum_ ( i <oo | P ) F" :=
 Notation "\sum_ ( i <oo ) F" :=
   (\big[+%E/0%:E]_(0 <= i <oo) F%E) : ring_scope.
 
+Lemma fun_big_mkord (R : numDomainType) (f : nat -> {ereal R}) (P : pred nat) :
+  (fun n => (\sum_(k < n | P k) f k)%E) = (fun n => (\sum_(0 <= k < n | P k) f k)%E).
+Proof. by rewrite funeqE => n /=; rewrite big_mkord. Qed.
```
Comment (CohenCyril) [inline theories/sequences.v:812]: I'm not fond of this, ... we are not going to generalize every rule to a rewrite under binders. Either you make it a local `have` of the proof where you need it, or you use `under eq_fun do rewrite big_mkord.` where needed.

File: theories/ereal.v (hunk 2 above)
Comment (affeldt-aist) [reply theories/ereal.v]: I forgot this one. Fixed.

File: theories/sequences.v [hunk 4]
```diff
@@ -1186,4 +1249,52 @@ Lemma ereal_limD (R : realType) (f g : nat -> {ereal R}) :
...
+  (forall i, f i = 0%:E) -> \sum_(i <oo) f i = 0%:E.
+Proof. by move=> f0; under eq_fun do rewrite big1//; rewrite lim_cst. Qed.
+
+Lemma eq_ereal_pseries (R : realType) (f g : nat -> {ereal R}) :
+  (forall i, f i = g i) -> \sum_(i <oo) f i = \sum_(i <oo) g i.
+Proof.
+by move=> efg; congr (lim _); apply/funext => n; under eq_bigr do rewrite efg.
+Qed.
+
+Lemma ereal_sum_pseries (R : realType) n (f : nat -> nat -> {ereal R}) :
```
Comment (CohenCyril) [inline theories/sequences.v:1275]:
```suggestion
Lemma ereal_pseries_sum_nat (R : realType) n (f : nat -> nat -> {ereal R}) :
```
Sorry I misnamed it...

File: CHANGELOG_UNRELEASED.md [hunk 5]
```diff
@@ -4,10 +4,33 @@
 
 ### Added
   
+- in `ereal.v`:
+  + lemmas `big_nat_widenl`, `big_geq_mkord`
+  + lemmas `lee_sum_nneg_natr`, `lee_sum_nneg_natl`
+- in `sequences.v`:
+  + notations `\sum_(i <oo) F i`
+  + lemmas `ereal_sum_pseries`, `lte_lim`
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:12]:
```suggestion
  + lemmas `ereal_pseries_sum_nat`, `lte_lim`
```
